*PFET DC Simulation
.model pmostabmod table3d (offset=0.0 gain=1 order=3 file="0negs1modelp.txt")
*** NETLIST DESC ***
amos1 %vd(nd 0) %vd(ng 0) %vd(ns 0) %id(ns nd) pmostabmod
*amos1 %vd(ns 0) %vd(ng 0) %vd(nd 0) %id(ns 0) pmostabmod
*R1 in ng 50
Vout nd 0 49
Vss ns 0 45
Vin ng 0 0
*** SIM Commands ***
********* transfer characterstics
.dc Vin -24.99 50 0.01 Vout 10 50 40
** .dc Vin 24.99 -50 -0.01 Vout -10 -50 -40

** output characterstics
*.dc Vout -5 50 0.01 Vin 0 50 10
*.dc Vout 5 -50 -0.01 Vin 0 -50 -10

.end

